US07662830B2
2. 4-(3-Chloro-4-fluoro-phenyl)-6-[4-(3-methyl-5-nitro-pyridin-2-yl)-piperazin-1-yl]-2-(2-methyl-pyrrolidin-1-yl)-pyrimidine
Heat a mixture of 4-chloro-6-(3-chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl) -pyrimidine (210 mg), 1-(3-Methyl-5-nitro-pyridin-2-yl)-piperazine, and DIEA (185 mg, 1.44 mmol) in DMA at 120°C. for 16 h. Concentrate under reduced pressure and partition between EtOAc and brine. Dry the organic layer (Na2SO4) and concentrate under reduced pressure. Purify the residue by flash column eluting with EtOAc-Hexanes (1:4) to afford the title compound as a yellow solid.

reactant | 4-chloro-6-(3-chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl) -pyrimidine | 210 mg | ClC1=NC(=NC(=C1)C1=CC(=C(C=C1)F)Cl)N1C(CCC1)C | C15H14Cl2FN3
reactant | 1-(3-Methyl-5-nitro-pyridin-2-yl)-piperazine | CC=1C(=NC=C(C1)[N+](=O)[O-])N1CCNCC1 | C10H14N4O2
reactant | DIEA | 1.44 mmol, 185 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 4-(3-Chloro-4-fluoro-phenyl)-6-[4-(3-methyl-5-nitro-pyridin-2-yl)-piperazin-1-yl]-2-(2-methyl-pyrrolidin-1-yl)-pyrimidine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=C(C=C1C)[N+](=O)[O-])N1C(CCC1)C | C25H27ClFN7O2
